US04216228
A solution of 14 g of phenyl isothiocyanate in 50 ml of hexane was added dropwise to 19 g of N-4-methylbenzyl-N-cyclopentyl amine in 400 ml of hexane while cooling and stirring. After the addition, the temperature of the reaction mixture was gradually raised, and the solution was stirred at 40° C. for about 5 hours. The mixture was cooled and filtered. The residue was recrystallized from a mixture of hexane and ethyl alcohol. 30 g of N-4-methylbenzyl-N-cyclopentyl-N'-phenylthiourea were obtained. Melting point: 109°-111° C.

reactant | phenyl isothiocyanate | 14 g | C1(=CC=CC=C1)N=C=S | C7H5NS
reactant | N-4-methylbenzyl-N-cyclopentyl amine | 19 g | CC1=CC=C(CNC2CCCC2)C=C1 | C13H19N
solvent | hexane | 50 ml | CCCCCC | C6H14
solvent | hexane | 400 ml | CCCCCC | C6H14
product | N-4-methylbenzyl-N-cyclopentyl-N'-phenylthiourea | 30 g | CC1=CC=C(CN(C(=S)NC2=CC=CC=C2)C2CCCC2)C=C1 | C20H24N2S
